US06727264B1
1-(4-CHLOROBUTOXY)-4-METHOXYBENZENE:
Prepared by Procedure U and Scheme AK using 4-methoxyphenol and 1-bromo-4-chlorobutane.

reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 1-(4-CHLOROBUTOXY)-4-METHOXYBENZENE | ClCCCCOC1=CC=C(C=C1)OC | C11H15ClO2
